US04492692
3-Acetoxymethyl-7-[1-(3-t-butoxycarbonylpropyl)imidazol-2-yl]aminoceph-3-em-4-carboxylic acid was treated with TFA according to the process of Example 39, except that product was isolated by trituration, to give 3-acetoxymethyl-7-[1-(3-carboxypropyl)imidazol-2-yl]amino ceph-3-em-4-carboxylic acid, having the following n.m.r. spectrum in d6DMSO+CD3CO2D: 1.6-2.4 (m, 4H); 2.0 (s, 3H); 3.5 (d, 1H); 3.7 (d, 1H); 4.0 (t, 2H); 4.7 (d, 1H); 5.0 (d, 1H); 5.2 (d, 1H); 5.6 (s, 1H); 7.1 (m, 2H).

reactant | 3-Acetoxymethyl-7-[1-(3-t-butoxycarbonylpropyl)imidazol-2-yl]aminoceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC=2N(C=CN2)CCCC(=O)OC(C)(C)C)=O | C21H28N4O7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-acetoxymethyl-7-[1-(3-carboxypropyl)imidazol-2-yl]amino ceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC=2N(C=CN2)CCCC(=O)O)=O | C17H20N4O7S
